US04426321
According to the procedure described in Example 1, from 58.1 g of 1-chloro-2,4-pentadiene and 45.2 g of isopropyl methyl ketone in the presence of 100 g of powdered potassium hydroxide in 300 ml of toluene there are obtained 49.9 g of crude 3,3,6-trimethyl-5,7-octadien-2-one which are subjected to a fraction distillation.

reactant | 1-chloro-2,4-pentadiene | 58.1 g | ClCC=CC=C | C5H7Cl
reactant | isopropyl methyl ketone | 45.2 g | CC(=O)C(C)C | C5H10O
reactant | potassium hydroxide | 100 g | [OH-].[K+]
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3,6-trimethyl-5,7-octadien-2-one | 49.9 g | CC(C(C)=O)(CC=C(C=C)C)C | C11H18O
